US06534535B1
Part 1. To a solution of 5-bromoindoline (1.0 g, 5 mmol) in 10 ml of dioxane was added 5 mL of a 1N NaOH solution and 5 mL of water. This mixture was cooled with an ice bath, and di-tert-butyl dicarbonate (1.2 g, 5.5 mmol) was added in one portion. The reaction was allowed to warm to room temperature, stirred for 4 hours, and then concentrated. The residue was extracted with ethyl acetate (2×25 mL), and the combined organic phases were washed with water (2×25 mL), saturated aqueous NaCl (2×25 ml), then dried over MgSO4. Filtration and concentration in vacuo gave N-Boc-5-bromoindoline (1.33 g, 89%) as a light brown powder after drying. 1H NMR (CDCl3) δ: 1.541 (s, 9H); 3.03-3.08 (t, 2H); 3.92-3.96 (t, 2H); 7.23-7.27 (m, 3H).

reactant | 5-bromoindoline | 5 mmol, 1.0 g | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | NaOH | 1N | [OH-].[Na+]
reactant | water | 5 mL | O | H2O
reactant | di-tert-butyl dicarbonate | 5.5 mmol, 1.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-Boc-5-bromoindoline | 1.33 g, 89% | C(=O)(OC(C)(C)C)N1CCC2=CC(=CC=C12)Br | C13H16BrNO2
